Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left flank pain, nausea, decreased PO intake
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of depression and anxiety, seen in the ED
earlier this week with left flank pain, abdominal pain, nausea
and found to have multiple non obstructing left renal stones, 
teh
largest of which was 5 mm. CT noted left urothelial thickening
and perirenal stranding, may be consistent with a previously
passed stone and pyelonephritis. She was discharged home and
followed up in clinic with Dr ___ on ___. At that time,
her pain was persistent and she was having nausea, emesis,
decreased PO intake and severe constipation. She is, therefore,
directly admitted to the Urology service for further evaluation,
rehydration and pain control. 
 
Past Medical History:
Insomnia
Anxiety
Depression
COPD

 
Social History:
___
Family History:
Father died
of mesothelioma, Mother was healthy 

 
Physical Exam:
98.9  69  106/62  18  96% RA
NAD, sitting up comfortably in bed surrounded by family
Breathing easily
Abdomen soft, tender in LLQ, no rebound or guarding
Significant left CVA tenderness
Ext wwp

 
Pertinent Results:
___ 06:01PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 06:01PM URINE  BLOOD-SM  NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 LEUK-TR
___ 06:01PM URINE  RBC-21* WBC-10* BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 06:01PM URINE  CA OXAL-MOD
___ 06:01PM URINE  MUCOUS-RARE
___ 04:10PM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 04:10PM URINE  BLOOD-TR NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 04:10PM URINE  RBC-4* WBC-5 BACTERIA-FEW YEAST-NONE 
EPI-1
___ 04:10PM URINE  CA OXAL-MANY
___ 04:00PM   GLUCOSE-82 UREA N-16 CREAT-0.9 SODIUM-139 
POTASSIUM-5.5* CHLORIDE-97 TOTAL CO2-28 ANION GAP-20
___ 04:00PM   CALCIUM-9.0 PHOSPHATE-4.0# MAGNESIUM-2.1
___ 04:00PM   WBC-11.6* RBC-4.21 HGB-13.6 HCT-40.8 MCV-97 
MCH-32.2* MCHC-33.2 RDW-12.3
___ 04:00PM   PLT COUNT-352

CT abd ___
 
IMPRESSION: 
  
1. In the setting of fever and leukocytosis, fat stranding 
around the left 
kidney may represent acute pyelonephritis.  However this is a 
clinical 
diagnosis which cannot be directly supported without intravenous 
contrast.  
Recently passed stone may present with a similar appearance.  
  
2. Nonobstructing left nephrolithiasis.  
  
3. No ureteral or bladder stone is present. 

CT sinuses ___:
FINDINGS:  The paranasal sinuses are clear.  The nasal septum is 
midline.  The 
lamina papyracea are intact.  The anterior clinoid processes are 
not 
pneumatized.  The cribriform plate is intact.  The osteomeatal 
units are 
patent.  The orbits and globes are normal.  Limited evaluation 
of the 
visualized portions of the brain is grossly unremarkable.  The 
mastoid air 
cells are well aerated.  The parotid glands are unremarkable.  
No acute bony 
abnormality. 
  
IMPRESSION:  Normal paranasal sinuses and mastoids.  No findings 
to explain 
patient's symptoms. 

 
Brief Hospital Course:
___ yo F admitted directly to the urology service with 
nephrolithiasis.

Nephrolithiasis: The patient was admitted to Dr ___ 
service from clinic.Initially made NPO on HD1, then diet 
advanced on HD2, tolerated full diet without n/v. The patient 
was given IVF. Repeat CT showed no change, no ureteral stones, 
persistent mild perinephric stranding. Pain control was done 
initially with IV dilaudid then transitioned to PO oxycodone, 
toradol to motrin, and RTC Tylenol. Per urology, no surgical 
intervention was made.
.
Pyelonephritis: The patient was started on ciprofloxacin for the 
possibility of pyelo. Her flank pain improved and she had no 
evidence of fever, nausea or vomiting.
.
Headache: Due to a persistent headache and given her history of 
venous sinus thrombosis, the medical service was consulted and 
she was transferred to medicine. The neurology service was 
consulted and recommended a CT head due to a concern for 
mastoiditis. The CT head showed no sign of mastoiditis. 

The pt's back of the head and neck pain significantly improved.  
Clinically, she also felt better with better PO intake, more 
energy.  She discharged to home in improved condition with 
instructions to f/u with her neurologist, PCP, ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ClonazePAM 2 mg PO QHS 
2. Fluoxetine 20 mg PO DAILY 
3. tamsuLOSIN 0.4 mg oral daily 
4. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. ClonazePAM 0.5 mg PO DAILY:PRN anxiety 
2. Docusate Sodium 100 mg PO BID 
It is over the counter 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*40 Capsule Refills:*1
3. Ibuprofen 600 mg PO Q6H:PRN pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours as 
needed for pain Disp #*30 Tablet Refills:*0
4. Tamsulosin 0.4 mg PO DAILY alleviate possible ureteral spasm 
RX *tamsulosin 0.4 mg 1 capsule,extended release 24hr(s) by 
mouth daily Disp #*30 Capsule Refills:*1
5. TraZODone 100 mg PO HS:PRN insomnia 
6. Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg ___ tablet(s) by mouth q8hrs Disp #*60 
Tablet Refills:*1
7. ClonazePAM 0.5-1 mg PO DAILY:PRN anxiety 
8. Fluoxetine 20 mg PO DAILY 
9. Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin [Cipro] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*14 Tablet Refills:*0
10. Aspirin 325 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left renal stones, pyelonephritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were diagnosed with a kidney stone and an infection in the 
kidney called pyelonephritis.  It will take time to continue to 
heal.  

You were not found to have any signs of mastoiditis.  
 
Followup Instructions:
___